US04009022
To a solution of 3.5 g 4-chlorobenzil in 15 ml ethanol is added 0.45 g anhydrous hydrazine. The solution is refluxed for 1 hour, filtered and water added to the cloud point, and allowed to crystallize yielding 2.3 g of 4-chlorobenzoin hydrazone.

reactant | 4-chlorobenzil | 3.5 g | ClC1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9ClO2
reactant | hydrazine | 0.45 g | NN | H4N2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-chlorobenzoin hydrazone | 2.3 g | ClC1=CC=C(C=C1)C(C(O)C1=CC=CC=C1)=NN | C14H13ClN2O
